US07202221B2
6-[(2-amino-ethyl)amino]-1-benzyl-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid
To a solution of 1-Benzyl-6-chloro-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid (300 mg) in 1-methyl-2-pyrrolidinone (6 mL) was added ethylenediamine (170 mg) under argon atmosphere. The mixture was heated at 120° C. for 18 h and then at 145° C. for 4 h. The reaction mixture was cooled and poured into water (12 mL). The pH value was adjusted with acetic acid to 7.0–7.5. The reaction mixture was extracted with DCM (5×30 mnL). The organic phase was dried over Na2SO4, filtered and concentrated under reduced pressure. The crude product was purified by silica SPE-column (eluent: from DCM 100% to DCM/MeOH/NH4OH 85/13/2) giving the title compound (80 mg).

reactant | 1-Benzyl-6-chloro-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid | 300 mg | C(C1=CC=CC=C1)N1C=C(C(C2=CC(=CC=C12)Cl)=O)C(=O)O | C17H12ClNO3
reactant | ethylenediamine | 170 mg | C(CN)N | C2H8N2
reactant | water | 12 mL | O | H2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | 1-methyl-2-pyrrolidinone | 6 mL | CN1C(CCC1)=O | C5H9NO
product | 6-[(2-amino-ethyl)amino]-1-benzyl-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid | 80 mg | NCCNC=1C=C2C(C(=CN(C2=CC1)CC1=CC=CC=C1)C(=O)O)=O | C19H19N3O3
